US04018930
(±)-trans-3-(3-chloro-2-butenyl)-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine
A suspension of 2.76 g of (±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3';2,3]indolo[1,7-ab][1]benzazepine in 20 ml of dimethylformamide (DMF) containing 2.3 ml triethylamine was treated with 1.25 g of 1,3-dichloro-2-butene. Solution resulted immediately. The solution was stirred at room temperature for 4 hours, by which time some white precipitate had formed. The reaction mixture was poured into 150 ml of cold water, a gummy solid was separated and washed by decantation with cold water. Recrystallization from ethanol gave 2.93 g of the title compound, m.p. 130°-132° C.

reactant | (±)-trans-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3';2,3]indolo[1,7-ab][1]benzazepine | 2.76 g | C1CCC[C@H]2C=CC=3C=4N([C@@H]21)C2=C(C4CCC3)C=NC=C2 | C19H20N2
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | 1,3-dichloro-2-butene | 1.25 g | ClCC=C(C)Cl | C4H6Cl2
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-trans-3-(3-chloro-2-butenyl)-1,2,3,4,4a,8,9,14a-octahydropyrido[4',3':2,3]indolo[1,7-ab][1]benzazepine | 2.93 g | ClC(=CCC1CCC2C(/C=C/C=3C=4N2C2=C(C4CCC3)C=NC=C2)C1)C | C23H25ClN2
